US08809333B2
To a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (0.182 g, 0.430 mmol) in EtOH (8 mL) was added 1M HCl (15 mL). The reaction mixture was allowed to stir at RT overnight. The reaction mixture was concentrated, and azeotroped with methanol to remove water to give (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]butanamide (142 mg, 97% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.49 (s, 3H) 2.21-2.33 (m, 1H) 2.68-2.80 (m, 1H) 3.06 (s, 3H) 4.05-4.15 (m, 1H) 4.22-4.32 (m, 1H) 8.12 (s, 1H) 8.40 (d, J=2.54 Hz, 1H) 8.50 (s, 1H) 8.54 (dd, J=2.54, 1.56 Hz, 1H) 8.96 (d, J=1.56 Hz, 1H) 10.93 (br. s., 1H) 11.14 (s, 1H) LC-MS M+H+340.1.

reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.430 mmol, 0.182 g | C[C@](C(=O)NOC1OCCCC1)(CCN1N=CC(=C1)C1=NC=CN=C1)S(=O)(=O)C | C18H25N5O5S
reactant | HCl | 1M, 15 mL | Cl | ClH
solvent | EtOH | 8 mL | CCO | C2H6O
product | (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-[4-(pyrazin-2-yl)-1H-pyrazol-1-yl]butanamide | 142 mg, 97% yield | ONC([C@@](CCN1N=CC(=C1)C1=NC=CN=C1)(S(=O)(=O)C)C)=O | C13H17N5O4S
